US04315939
Using the method described in Example 1, 35 g of sodium in 1.5 liters of ethanol, and 264 g of 3-(ethoxycarbonylmethylamino)-2-methylcrotonic acid ethyl ester in 400 ml of ethanol give 165 g of 3-hydroxy-4,5-dimethyl-pyrrole-2-carboxylic acid ethyl ester, of melting point 111°-113° C.

reactant | sodium | 35 g | [Na] | Na
reactant | 3-(ethoxycarbonylmethylamino)-2-methylcrotonic acid ethyl ester | 264 g | C(C)OC(\C(=C(\C)/NCC(=O)OCC)\C)=O | C11H19NO4
solvent | ethanol | 1.5 liters | C(C)O | C2H6O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 3-hydroxy-4,5-dimethyl-pyrrole-2-carboxylic acid ethyl ester | 165 g | C(C)OC(=O)C=1NC(=C(C1O)C)C | C9H13NO3
